US08609653B2
To a solution of (1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (8.75 g, 21.13 mmol) in dichloromethane (DCM) (200 mL) at 0° C. was added PCC (9.11 g, 42.3 mmol) and silica gel (6.4 g, 70% wt. of the amount of PCC) and the mixture was stirred at ambient temperature for 3 h. The mixture was filtered through silica gel washing with dichloromethane (1 L). The filtrate was concentrated to provide 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (9.44 g, 19.93 mmol, 94% yield) as a brownish solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.90 (s, 3H), 5.56 (s, 2 H), 6.54 (d, J=3.71 Hz, 1 H), 6.88-7.05 (m, 2 H), 7.05-7.19 (m, 1 H), 7.30 (d, J=3.51 Hz, 1 H), 10.38 (s, 1 H); LCMS (m/z) ES+=412 (M+1).

reactant | (1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 21.13 mmol, 8.75 g | FC1=C(CN2C=CC=3C2=NC(=C(C3I)CO)C)C=CC=C1F | C16H13F2IN2O
reactant | PCC | 42.3 mmol, 9.11 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 19.93 mmol, 9.44 g, 94% yield | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C=O)C)C=CC=C1F | C16H11F2IN2O
